US07196080B2
To a THF solution of 4-bromo-2-chloroanisole was added an n-butyllithium/n-hexane solution at −78° C., followed by 30 minutes of stirring. Then, trimethyl borate was added and the whole was warmed to room temperature, followed by 30 minutes of stirring. Using the residue obtained by evaporation of the solvent instead of 3,4-dimethoxyphenylboric acid, an objective compound was obtained in a similar manner to Reference Example 1.

reactant | 4-bromo-2-chloroanisole | BrC1=CC(=C(C=C1)OC)Cl | C7H6BrClO
reactant | n-butyllithium n-hexane | C(CCC)[Li].CCCCCC
reactant | trimethyl borate | B(OC)(OC)OC | C3H9BO3
reactant | THF | C1CCOC1 | C4H8O
product | 3,4-dimethoxyphenylboric acid | COC=1C=C(C=CC1OC)OB(O)O | C8H11BO5
